US08604034B2
A suspension of 7-bromo-10a-(4-methylphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (100 mg, 0.27 mmol) in DMF (5 mL) was flushed with argon for 20 minutes. Potassium acetate (85 mg, 0.86 mmol) was added followed by 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (161 mg, 0.63 mmol) and bis(diphenylphosphino)ferrocene]dichloropalladium(II) (20.5 mg, 0.029 mmol). The mixture then heated at 80° C. The outcome of the reaction was monitored by LCMS and after 3 hours the mixture was quenched with water (5 ml). The aqueous layer was washed with CH2Cl2, filtrated, concentrated in vacuo to give crude, 10a-(4-methylphenyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (100 mg). ESI-MI m/z [M+H]+ 394.1.

reactant | 7-bromo-10a-(4-methylphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.27 mmol, 100 mg | BrC=1C=C2N(CC3(N(C2=O)CCN3)C3=CC=C(C=C3)C)C1 | C16H16BrN3O
reactant | Potassium acetate | 0.86 mmol, 85 mg | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.63 mmol, 161 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.029 mmol, 20.5 mg | Cl[Pd]Cl
product | 10a-(4-methylphenyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 100 mg | CC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)B3OC(C(O3)(C)C)(C)C)=O)CCN2 | C22H28BN3O3
